US04937251
α-[[Acetyl[6-[2-(2-pyridinyl)ethoxy]hexyl]amino]methyl]-4-amino-3,5-dichlorobenzenemethanol acetate (ester)
Acetic anhydride (132 mg) in pyridine (2 ml) was added dropwise to a solution of 4-amino-3,5-dichloro-α-[[[6-[2-(2-pyridinyl)ethoxy]hexyl]amino]methyl]benzenemethanol (250 mg) in pyridine (2 ml). The solution was stirred under nitrogen at room temperature overnight and more acetic anhydride (66 mg) in pyridine was added. After stirring for a further 12 h, the solution was evaporated in vacuo to give an oil which was partioned between water (5 ml) and ether (5 ml). The aqueous layer was re-extracted with ether (5 ml) and the combined organic layers were dried and concentrated to give the title compound as a clear oil (190 mg), t.l.c. (System A 80:20:1) Rf 0.5.

reactant | Acetic anhydride | 132 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-amino-3,5-dichloro-α-[[[6-[2-(2-pyridinyl)ethoxy]hexyl]amino]methyl]benzenemethanol | 250 mg | NC1=C(C=C(C=C1Cl)C(O)CNCCCCCCOCCC1=NC=CC=C1)Cl | C21H29Cl2N3O2
reactant | acetic anhydride | 66 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 5 ml | O | H2O
reactant | ether | 5 ml | CCOCC | C4H10O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | α-[[Acetyl[6-[2-(2-pyridinyl)ethoxy]hexyl]amino]methyl]-4-amino-3,5-dichlorobenzenemethanol acetate | 190 mg | C(C)(=O)OC(C1=CC(=C(C(=C1)Cl)N)Cl)CN(CCCCCCOCCC1=NC=CC=C1)C(C)=O | C25H33Cl2N3O4
